US07163937B2
Tert-butyl (1R,3R,4S)-4-((S)-2-benzyloxycarbonylamino-4-(methylthio)butanamido)-3-(methylsulfonylmethyl)cyclohexylcarbamate (6.9 g) was dissolved in iodomethane (100 mL), and the resulting solution was stirred at rt for 72 h before being concentrated in vacuo. The residue was dissolved in methylene chloride, and the resulting solution was concentrated; this was repeated to afford the salt. MS found: (M+H)+=586.5. This material was dissolved in DMF (20 mL) and the solution was charged with Cs2CO3 (12.0 g). After 12 h, the reaction was partitioned between EtOAc and brine. The organic phase was dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(methylsulfonylmethyl)cyclohexylcarbamate (2.4 g). MS found: (M+H)+=524.3.

reactant | Tert-butyl (1R,3R,4S)-4-((S)-2-benzyloxycarbonylamino-4-(methylthio)butanamido)-3-(methylsulfonylmethyl)cyclohexylcarbamate | 6.9 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CS(=O)(=O)C)CCSC | C26H41N3O7S2
reactant | Cs2CO3 | 12.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | iodomethane | 100 mL | IC | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(methylsulfonylmethyl)cyclohexylcarbamate | 2.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CS(=O)(=O)C)=O | C25H37N3O7S
